US07041685B2
5-(3-Bromo-furan-2-yl)-3-(5-trifluoromethyl-pyridin-2-yl)-[1,2,4]-oxadiazole
The title compound was prepared from 5-trifluoromethyl-pyridine-2-amidoxime (480 mg, 2.34 mmol) and 3-bromo-furan-2-carbonyl chloride (490 mg, 2.34 mmol) similar to Example 16, and yielded 718 mg (85%) of light yellow solid. 1H NMR (CDCl3): 9.09 (m, 1H), 8.37 (d, J=8.24 Hz, 1H), 8.14 (dd, J=8.10, 2.34 Hz, 1H), 7.70 (d, J=1.92 Hz, 1H), 6.78 (d, J=1.92 Hz, 1H).

reactant | 5-trifluoromethyl-pyridine-2-amidoxime | 2.34 mmol, 480 mg | FC(C=1C=CC(=NC1)C(N)=NO)(F)F | C7H6F3N3O
reactant | 3-bromo-furan-2-carbonyl chloride | 2.34 mmol, 490 mg | BrC1=C(OC=C1)C(=O)Cl | C5H2BrClO2
product | 5-(3-Bromo-furan-2-yl)-3-(5-trifluoromethyl-pyridin-2-yl)-[1,2,4]-oxadiazole | BrC1=C(OC=C1)C1=NC(=NO1)C1=NC=C(C=C1)C(F)(F)F | C12H5BrF3N3O2
